US08604028B2
3-Amino-3-(4-fluorophenyl)prop-2-enenitrile
A solution of 0.390 ml (2.78 mmol) diisopropylamine in dry THF (2 ml) was cooled to −70° C. under inert gas atmosphere, and 1.74 ml (2.78 mmol) n-butyllithium solution (1.6 M in hexanes) were added dropwise. Then, a solution of 129 μl (2.45 mmol) acetonitrile in dry THF (2 ml) was slowly added over 10 min. The resulting solution was stirred for further 30 min at −70° C. before a solution of 200 mg (1.635 mmol) 4-fluorobenzonitrile in dry THF (2 ml) was added. The mixture was allowed to warm to room temperature and stirred for 1 h before water (4 ml) was added slowly. The mixture was extracted several times with dichloromethane (50 ml). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure to yield 244 mg (92% of th.) of the crude title compound which was used in the next step without further purification.

reactant | diisopropylamine | 2.78 mmol, 0.390 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.78 mmol, 1.6 M, 1.74 ml | C(CCC)[Li]
reactant | acetonitrile | 2.45 mmol, 129 μl | C(C)#N | C2H3N
reactant | 4-fluorobenzonitrile | 1.635 mmol, 200 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | 3-Amino-3-(4-fluorophenyl)prop-2-enenitrile | NC(=CC#N)C1=CC=C(C=C1)F | C9H7FN2
